US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2-CHLOROPHENYL) THIOUREA
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 2-chlorophenyl isothiocyanate according to the procedure of Example 65. MS (ES) m/z 559.8.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2-chlorophenyl isothiocyanate | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-N′-(2-CHLOROPHENYL) THIOUREA | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(=S)NC1=C(C=CC=C1)Cl)C(F)(F)F | C30H19ClF3N3OS
